US06022822
(3) Synthesis of tricyclohexyltin chloride
55.1 g of tetracyclohexyltin (122 mmol) and 50 ml of toluene were mixed together in a 200 ml eggplant type flask, and containing a stirrer. Then, 18.1 ml of tin tetrachloride (155 mmol) was added, and the mixture was refluxed for 3 hours. Upon completion of the reaction, the mixture was cooled to 0° C., and 30 ml of water and 50 ml of hexane were added. After the hexane layer was separated, the solid precipitate, which had been precipitated by removing the solvent under reduced pressure, was washed with 20 ml of acetonitrile, and dried under a vacuum, to yield 39.1 g of the final product (yield=59.5%).

reactant | tetracyclohexyltin | 122 mmol, 55.1 g | C1(CCCCC1)[Sn](C1CCCCC1)(C1CCCCC1)C1CCCCC1
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | tin tetrachloride | 155 mmol, 18.1 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | water | 30 ml | O | H2O
solvent | hexane | 50 ml | CCCCCC | C6H14
product | tricyclohexyltin chloride | 39.1 g, yield=59.5% | C1(CCCCC1)[Sn](C1CCCCC1)(C1CCCCC1)Cl | InChI=1S/3C6H11.ClH.Sn/c3*1-2-4-6-5-3-1;;/h3*1H,2-6H2;1H;/q;;;;+1/p-1
